US04344954
3-(3,4-Dimethoxyphenyl)-2-(o-fluorophenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride
A mixture consisting of 16.6 g. of veratraldehyde, 12.5 g. of o-fluorobenzaldehyde, 8 g. of potassium cyanide, and 100 ml of 65% ethanol is reacted as described in Example 20, yielding 12.5 g. of 3,4-dimethoxy-2'-fluorobenzoin, m.p. 126°-128° C. A 5.8 g. portion of the benzoin derivative is converted to its methanesulfonate ester by the procedure of Example 20, giving 6.7 g. of the ester melting at 111°-113° C. 2.58 g. of the methanesulfonate ester, 0.91 g. of hexahydro-2H-1,3-diazepin-2-thione, and 55 ml. of acetone are mixed and left at room temperature for three days. 7 ml. of 2 N ethanolic hydrogen chloride are added, yielding 2.2 g. of the title compound, melting at 192°-194° C.

reactant | veratraldehyde | C(C1=CC(OC)=C(OC)C=C1)=O | C9H10O3
reactant | o-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | 3,4-dimethoxy-2'-fluorobenzoin | COC=1C=C(C=CC1OC)C(=O)C(O)C1=C(C=CC=C1)F | C16H15FO4
reactant | benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | hexahydro-2H-1,3-diazepin-2-thione | N1C(NCCCC1)=S | C5H10N2S
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(3,4-Dimethoxyphenyl)-2-(o-fluorophenyl)-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride | Cl.COC=1C=C(C=CC1OC)C1(C(SC=2N1CCCCN2)C2=C(C=CC=C2)F)O | InChI=1S/C21H23FN2O3S.ClH/c1-26-17-10-9-14(13-18(17)27-2)21(25)19(15-7-3-4-8-16(15)22)28-20-23-11-5-6-12-24(20)21;/h3-4,7-10,13,19,25H,5-6,11-12H2,1-2H3;1H
